US05089610
A preferred method for halogenation includes subjecting the 2-hydroxycepham to triphenylphosphine in an amount between about 1 and 2 molar equivalents, and iodine in an amount between about 1 and 2 molar equivalents in an inert organic solvent, heating the mixture at approximately 80° C. while stirring the mixture until no starting material is present, thus forming the 2-iodo cepham (IIIA).

reactant | 2-hydroxycepham | OC1S[C@H]2N(CC1)C(C2)=O | C6H9NO2S
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | II | I2
product | 2-iodo cepham | IC1S[C@H]2N(CC1)C(C2)=O | C6H8INOS
